US08461153B2
2-(Chloromethyl)-1,3-diethylbenzene
To a mixture of (2,6-diethylphenyl)methanol (1.83 g, 11.1 mmol), toluene (20 mL) and DMF (6 drops) was added SOCl2 (2.1 g, 1.6 eq). The resulting solution was stirred at RT (1 h). After evaporating to dryness, the residue was taken up in heptane (˜50 mL) and washed with water (˜5 mL), dried (Na2SO4), filtered and evaporated to give 1.97 g (yield of 97%) of title product. 1H NMR (300 MHz, CDCl3) δ 1.28 (t, 6H), 2.79 (q, 2H), 4.70 (s, 2H), 7.09 (d, 2H), 7.20 (m, 1H).

reactant | (2,6-diethylphenyl)methanol | 11.1 mmol, 1.83 g | C(C)C1=C(C(=CC=C1)CC)CO | C11H16O
reactant | SOCl2 | 2.1 g, 1.6 eq | O=S(Cl)Cl | Cl2OS
catalyst | DMF | 6 drops | CN(C)C=O | C3H7NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Chloromethyl)-1,3-diethylbenzene | 1.97 g, yield of 97% | ClCC1=C(C=CC=C1CC)CC | C11H15Cl
